US04128728
A mixture of 88 g of β-hydroxybutyraldehyde and 150 g of diethyl ketone is added dropwise in the course of one hour to a mixture of 250 g of diethyl ketone, 80 g of isopropanol and 5 g of sodium hydroxide powder which is boiling under reflux. The whole is boiled for another hour under reflux. Neutralization is effected with glacial acetic acid and the aqueous phase is separated. The organic layer is fractionated. 65 g of 2,5,6-trimethyl-2-cyclohexen-1-one having a boiling point of 74° to 76° C. at 12 mm Hg is obtained. The yield is 47% with reference to β-hydroxybutyraldehyde.

reactant | β-hydroxybutyraldehyde | 88 g | OC(CC=O)C | C4H8O2
reactant | diethyl ketone | 150 g | C(C)C(=O)CC | C5H10O
reactant | diethyl ketone | 250 g | C(C)C(=O)CC | C5H10O
reactant | isopropanol | 80 g | C(C)(C)O | C3H8O
reactant | sodium hydroxide | 5 g | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,5,6-trimethyl-2-cyclohexen-1-one | 65 g, yield is 47% | CC=1C(C(C(CC1)C)C)=O | C9H14O
